US06552068B1
Sodium iodide (19.62 g, 130 mmol) was added to a solution of 1-methanesulfonyloxy-7,7,8,8,8-pentafluorooctane (14 g, 47.01 mmol) in acetone (200 ml), followed by heating under reflux for 12 hours. After the reaction was completed, water was added to the reaction mixture, which was then extracted twice with ether. The combined organic layers were washed with 1% aqueous sodium thiosulfate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The solvent was distilled off to give 1-iodo-7,7,8,8,8-pentafluorooctane (14 g, Yield 89%).

reactant | Sodium iodide | 130 mmol, 19.62 g | [I-].[Na+]
reactant | 1-methanesulfonyloxy-7,7,8,8,8-pentafluorooctane | 47.01 mmol, 14 g | CS(=O)(=O)OCCCCCCC(C(F)(F)F)(F)F | C9H15F5O3S
reactant | water | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-iodo-7,7,8,8,8-pentafluorooctane | 14 g, Yield 89% | ICCCCCCC(C(F)(F)F)(F)F | C8H12F5I
